US08389524B2
1-({4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride
A solution of 1-[(4-amino-1-piperidinyl)methyl]-1,2,5a,8b-tetrahydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (22.8 mg, 0.0757 mmol) in anhydrous dichloromethane (3 ml) and anhydrous methanol (0.6 ml) was treated with 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (12.5 mg, 0.076 mmol) (for a synthesis see WO2004058144 Example 2(c) or WO03/087098 Example 19(d)) and stirred, under argon, for 15 minutes and then treated with sodium triacetoxyborohydride (48 mg, 0.226 mmol) and stirred at room temperature for 17 hours. The reaction was then treated with a further portion of 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (2 mg) and sodium triacetoxyborohydride (10 mg) and the mixture was stirred for 4 hours, treated with saturated aqueous NaHCO3 solution (1 ml) and stirred for 10 minutes. The layers were separated and the aqueous layer was washed with 9:1 dichloromethane:methanol (2×10 ml). The combined organic extracts were passed through a hydrophobic frit and evaporated to a brown gum which was chromatographed eluting with 0 to 30% methanol in dichloromethane to give the free base of the title compound as a yellow gum (20.6 mg, 60%).

reactant | 1-[(4-amino-1-piperidinyl)methyl]-1,2,5a,8b-tetrahydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | 0.0757 mmol, 22.8 mg | NC1CCN(CC1)CC1CN2C(C=NC3C=CC(N1C23)=O)=O | C15H21N5O2
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde | 0.076 mmol, 12.5 mg | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 0.226 mmol, 48 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde | 2 mg | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 10 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 1 ml | C(=O)(O)[O-].[Na+]
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | methanol | 0.6 ml | CO | CH4O
product | 1-({4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | 20.6 mg, 60% | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CC2CN1C(C=NC=3C=CC(N2C13)=O)=O | InChI=1S/C23H26N6O4.2ClH/c30-21-2-1-18-23-28(22(31)12-26-18)14-17(29(21)23)13-27-5-3-15(4-6-27)24-10-16-9-19-20(11-25-16)33-8-7-32-19;;/h1-2,9,11-12,15,17,24H,3-8,10,13-14H2;2*1H
